US06127374
3,N-(N,N-Dimethylaminopropyl)-1,N-ethylcarbodiimide hydrochloride (EDAC.HCl) (385 mg, 2.0 mmol) was added in one portion to a solution of 6-amino-4-(4-phenoxyanilino)quinazoline (328 mg, 1.0 mmol), acrylic acid (148 mg, 2.04 mmol), and pyridine (165 mg, 2.1 mmol) in THF (10 mL) stirred under nitrogen at 0° C. After 4 hours at 0° C. tlc (10% MeOH/CHCl3) showed considerable SM, so the reaction mixture was stirred at 25° C. for 2 hours. The mixture was recooled to 0° C., and water (2 mL) was added dropwise. This solution was poured onto rapidly stirred ice-water (40 mL), the pH was raised to 7 with saturated Na2CO3 solution, and the very fine ppt was allowed to settle, collected by Buchner filtration, rinsed with water (2×10 mL), and dried in a vacuum oven at 65° C. for 4 hours. The pale yellow solid was refluxed and sonicated in EtOAc (10 mL), filtered, and the filtrate was eluted through a small silica gel plug with EtOAc. The combined washings were stripped rigourously at 25° C. under vacuum to give N-(4-[4-phenoxyanilino]quinazolin-6yl)acrylamide (162 mg, 41%) as a pale yellow glass; mp 185-191° C. Calculated for C23H18N4O2C20H16N4O.0.25 HCl.0.06 C4H8O2 : C, 70.34; H, 4.76; N, 14.12%. Found: C, 70.42; H, 4.80: N, 13.90%. 1H NMR (DMSO-d6): δ10.50 (1 H, sl brs), 9.86 (1 H, sl brs), 8.80 (1 H, d, J=2.0 Hz), 8.50 (1 H, s), 7.89 (1 H, dd, J=2.2, 9.0 Hz), 7.81 (2 H, d, J=8.9 Hz), 7.77 (1 H, d, J=9.0 Hz), 7.39 (2 H, dd, J=7.6, 8.6 Hz), 7.12 (1 H, t, J=7.4 Hz), 7.06 (2 H, d, J=8.8 Hz), 7.02 (2 H, d, J=7.8 Hz), 6.53 (1 H, dd, J=1.01, 17.0 Hz), 6.34 (1 H, dd, J=1.8, 17.0 Hz), 5.84 (1 H, dd, J=1.8 10.1 Hz). Mass spectrum (APCI) 383.1 (100 MH+).

reactant | 6-amino-4-(4-phenoxyanilino)quinazoline | 1.0 mmol, 328 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C20H16N4O
reactant | acrylic acid | 2.04 mmol, 148 mg | C(C=C)(=O)O | C3H4O2
reactant | pyridine | 2.1 mmol, 165 mg | N1=CC=CC=C1 | C5H5N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-[4-phenoxyanilino]quinazolin-6yl)acrylamide | 162 mg, 41% | O(C1=CC=CC=C1)C1=CC=C(NC2=NC=NC3=CC=C(C=C23)NC(C=C)=O)C=C1 | C23H18N4O2
